US07560301B2
First, perfluorooctaneamide (CF3(CF2)7CONH2) (46 g) was dissolved in n-hexane (300 ml). Thereafter, trimethylchlorosilane (15 ml) was dropped gradually into the solution obtained above, in a dry nitrogen atmosphere. Then this was allowed to react for two hours while being stirred. After the reaction was completed, hexadecane contained in the reaction solution was removed with the evaporator. Thus, N,N-bis(trimethylsilyl)perfluorooctaneamide was obtained.

reactant | perfluorooctaneamide | 46 g | FC(C(=O)N)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H2F15NO
reactant | trimethylchlorosilane | 15 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | hexadecane | CCCCCCCCCCCCCCCC | C16H34
solvent | n-hexane | 300 ml | CCCCCC | C6H14
product | N,N-bis(trimethylsilyl)perfluorooctaneamide | C[Si](N(C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O)[Si](C)(C)C)(C)C | C14H18F15NOSi2
